US09102591B2
2-methyl-N-(3-cyclopropyl-2-(2-(trifluoromethyl)pyrimidin-5-yl)propyl)-3-methoxybenzamide
From 2-methyl-3-methoxybenzoic acid and 3-cyclopropyl-2-(2-(trifluoromethyl)pyrimidin-5-yl)propan-1-amine. LCMS (MH+): m/z=394.0, tR (minutes, Method F)=2.59

reactant | 2-methyl-3-methoxybenzoic acid | CC1=C(C(=O)O)C=CC=C1OC | C9H10O3
reactant | 3-cyclopropyl-2-(2-(trifluoromethyl)pyrimidin-5-yl)propan-1-amine | C1(CC1)CC(CN)C=1C=NC(=NC1)C(F)(F)F | C11H14F3N3
product | 2-methyl-N-(3-cyclopropyl-2-(2-(trifluoromethyl)pyrimidin-5-yl)propyl)-3-methoxybenzamide | CC1=C(C(=O)NCC(CC2CC2)C=2C=NC(=NC2)C(F)(F)F)C=CC=C1OC | C20H22F3N3O2
